US08097759B2
N1,N3-Bis[3,5-bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamide (Compound No. 82)
Using 4-hydroxyisophthalic acid (182 mg, 1 mmol), 3,5-bis(trifluoromethyl)-aniline (687 mg, 3 mmol), phosphorus trichloride (87 μl; 1 mmol) and toluene (10 mL), the same operation as the example 16 gave the title compound (151 mg, 25.0%) as a white crystal.

reactant | 4-hydroxyisophthalic acid | 1 mmol, 182 mg | OC1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H6O5
reactant | 3,5-bis(trifluoromethyl)-aniline | 3 mmol, 687 mg | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | phosphorus trichloride | 1 mmol, 87 μl | P(Cl)(Cl)Cl | Cl3P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N1,N3-Bis[3,5-bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamide | 151 mg, 25.0% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=C(C=C1)O)=O)(F)F | C24H12F12N2O3
